Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
procaine / milk / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo woman who presents with LLQ abdominal 
pain. The patient is an extremely poor historian, given her 
psychiatric history and possibly mental delay. However, she 
reports that she has had abdominal pain for the past 3 months. 
It is unclear whether the pain is constant or intermittent. She 
also states she has diarrhea and constipation nausea and 
vomiting occasionally. She cannot remember all of her 
medications but states that she ran out of her seroquel one week 
ago. She says that no one knows what to do with her pain. 
She went to ___ 2 days ago and was given a 
prescription for Reglan, however, she did not have this filled 
and today she called EMS and requested to be transferred here to 
___. She denies any fever, chills, chest pain, shortness 
of breath, dysuria. 

Of note, she grew up in foster homes, has a hx of sexual abuse 
and has been diagnosed for schitzoaffective disorder, PTSD, and 
depression. She has been living on her own with assistance for 
___ years now and has a cat but gets lonely. She has VNAs that 
come to her house daily to help administer her medications and 
on the weekends help with grocery shopping and laundry. She 
attends a day program at ___ during the week. Her level of 
education is unknown but she can only read and write "a little 
bit".   

Collateral from her foster mother, who does not have any power 
of attorney, confirmed that this is the patient's ___ admission 
for the same problem. She has a possible history of heavy 
bleeding and poison ingestion. She was physically and mentally 
abused by her birth mother and sexually ___ by her brother. 
She did not know anything about the patient's birth history. 

In the ED, initial vital signs were: T P BP R O2 sat.  
Exam notable for LLQ pain without rebound or guarding.
Labs were notable for normocyic anemia. UA had small leukocytes, 
30 protein, trace blood.
Patient was given 1L IVF, morphine 10mg, oxycodone 5mg, 
metaclopraminde 10mg. 
On Transfer Vitals were:  98.5, 89, 125/71, 15, 96% RA 

REVIEW OF SYSTEMS:  
(+) As per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
Asthma
Allergic Rhinitis
Schizoaffective disorder
PTSD
Depression
Constipation
 
Social History:
___
Family History:
Unknown, reviewed
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T 98, BP 131/76 - 101/59, P 68-81, RR 18, ___ RA.
General: Obese woman lying in bed, quite voice, in NAD.
HEENT: PERRL, EOMI, mucous membranes moist. 
CV: RRR, S1, S2, no S3, S4, murmurs or rubs.
Lungs: Limited exam due to body habitus and poor patient effort 
but no crackles or wheezing appreciated on exam. 
Abdomen: soft, obese, periumbilical and LLQ tenderness, skin 
colored abdominal striae appreciated, +BS, No HSM, no masses. 
Ext: No edema

DISCHARGE PHYSICAL EXAM:
Vitals: T 98-98.4, BP 101/61-103/54, HR 87-84, RR 18, SAO2 97% 
RA 
General: obese woman sleeping in bed in NAD.  
HEENT: head ATNC
Lungs: difficult to appreciate secondary to body habitus and 
poor patient effort but CTAB
CV: RRR S1, S2, no S3, S4, murmurs or rubs.
Abdomen: mildly tender in LLQ when palpating with stethescope, 
somewhat hypoactive BS.
Ext: no edema, pulses +2
 
Pertinent Results:
ADMISSION LABS:
___ 02:24AM BLOOD WBC-4.8 RBC-3.70* Hgb-9.6* Hct-30.8* 
MCV-83 MCH-25.9* MCHC-31.2* RDW-14.6 RDWSD-44.2 Plt ___
___ 02:24AM BLOOD Neuts-50.0 ___ Monos-8.5 Eos-3.3 
Baso-0.6 Im ___ AbsNeut-2.42 AbsLymp-1.80 AbsMono-0.41 
AbsEos-0.16 AbsBaso-0.03
___ 02:24AM BLOOD Glucose-108* UreaN-13 Creat-0.7 Na-144 
K-4.2 Cl-108 HCO3-21* AnGap-19
___ 02:24AM BLOOD ALT-14 AST-24 AlkPhos-51 TotBili-0.1
___ 02:24AM BLOOD Lipase-37
___ 02:24AM BLOOD Albumin-4.2
___ 06:20AM BLOOD calTIBC-364 Ferritn-8.4* TRF-280

IMAGING:
ABDOMINAL US ___:
IMPRESSION: 
Limited examination due to patient sedation. Only transabdominal 
ultrasound
images were obtained. The right ovary appears normal and the 
left ovary is not
definitely visualized, however, it may contain a 1.7 cm cyst.  
The study is
within normal limits.  If further assessment of the left ovary 
is desired,
this will best be performed with a transvaginal sonogram when 
the patient is
able to consent to the study.

CT ABD/PELVIS ___:
IMPRESSION: 
No acute intra-abdominal process.  Left ovarian cyst measuring 
1.8 cm.

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-4.6 RBC-3.67* Hgb-9.5* Hct-29.7* 
MCV-81* MCH-25.9* MCHC-32.0 RDW-14.0 RDWSD-40.9 Plt ___
___ 06:45AM BLOOD Glucose-88 UreaN-10 Creat-0.6 Na-139 
K-3.4 Cl-103 HCO3-24 AnGap-15
___ 06:45AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.1
___ 06:45AM BLOOD TSH-0.92
___ 06:45AM BLOOD tTG-IgA-2
___ 06:20AM BLOOD tTG-IgA-3
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with a PMHx of PTSD, depression, 
schizoaffective disorder and asthma who presents with LLQ 
abdominal pain x 4 months. She has had multiple hospital 
admissions for this abdominal pain.

ACUTE ISSUES:
# Abdominal Pain: The patient presented with intractable 
abdominal pain mostly in the left lower quadrant sometimes 
radiating to the back, worse with eating, and some dizziness, no 
nausea or vomiting, or diarrhea and no change with her menstrual 
periods. Her last menstrual period started the day after 
admission. CT abdomen and pelvis was notable only for a 1.8cm 
left ovarian cyst and no other intra-abdominal processes. All 
her laboratory values including LFTs, lipase and WBC were all 
within normal limits. Urine dip was significant for 30 protein, 
small leukocytes, trace blood and few bacteria, culture was 
contaminated. Testing for H-pylori and TTg screen for celiac 
disease were both negative. We treated her with fluids, clear 
liquid diet which was advanced as tolerated, tramadol and IV 
morphine. The patient stated that there was no significant 
change in her abdominal pain with the pain medication. In 
discussion with her foster mother, visiting nurses and new PCP 
we found that she had been admitted to a number of different 
hospitals multiple times with the same complaint without 
definitive diagnosis. She also had OBGyn follow up for possible 
endometriosis evaluation but never followed up. After a couple 
days the patient was weaned off of the pain medications and her 
diet was advanced as tolerated. Nutrition was consulted to help 
her with a stomach easy diet and she was given information for 
follow up nutrition appointment. 

# Anemia, iron deficiency: found anemia on laboratory 
evaluation. Iron studies done and consistent with iron 
deficiency anemia. Likely from heavy menses. Unable to preform 
stool guaiac given pt was on her menstrual period during 
admission. Recommend outpatient follow up and possibly 
multivitamin with iron supplementation.  This was not started at 
this time given her ongoing pain and risk for failure.
.

CHRONIC ISSUES:
# PTSD / Depression / Schizoaffective disorder: Continued her 
home medications and rechecked TSH (9.2). Discharged with follow 
up with psychiatry a couple days after discharge. 
.
# Asthma: continued albuterol nebulizer as needed without acute 
event.
.

TRANSITIONAL ISSUES:
1. Please help patient schedule nutrition follow up appointment 
for diet plan that is easy on stomach. Call ___ to 
schedule an appointment. 
2. Pt anemic with low ferritin, consistent with iron deficiency 
anemia, likely secondary to menstruation. Please consider 
increasing iron supplementation and further workup of anemia as 
needed.
3. Recommend continued close, frequent physician follow up with 
low risk interventions and reassurance. 

# Code: Full Code
# Emergency Contact: ___ ___, ___ 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 2.5 mg/0.5 mL inhalation QID:PRN wheeze/SOB 

2. Bisacodyl ___AILY:PRN constipation 
3. Docusate Sodium 100 mg PO TID 
4. cranberry 125 mg oral QAM 
5. Venlafaxine XR 75 mg PO QAM 
6. Fluticasone Propionate NASAL 2 SPRY NU QAM 
7. Gemfibrozil 600 mg PO QAM 
8. Levothyroxine Sodium 25 mcg PO QAM 
9. Loratadine 10 mg PO QAM 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. mometasone 200 mcg nasal Q12H:PRN SOB 
12. Multivitamins 1 TAB PO QAM 
13. Omeprazole 20 mg PO BID 
14. Prazosin 3 mg PO QHS 
15. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN SOB 
16. Promethazine 25 mg PO Q6H:PRN nausea 
17. Senna 8.6 mg PO BID:PRN constipation 
18. QUEtiapine Fumarate 400 mg PO QHS 
19. Montelukast 10 mg PO QPM 
20. Spiriva with HandiHaler (tiotropium bromide) 18 mcg 
inhalation QAM 
21. Oxcarbazepine 300 mg PO BID 
22. Acetaminophen 325 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO TID 
3. Gemfibrozil 600 mg PO QAM 
4. Levothyroxine Sodium 25 mcg PO QAM 
5. Multivitamins 1 TAB PO QAM 
6. Omeprazole 20 mg PO BID 
7. Oxcarbazepine 300 mg PO BID 
8. Prazosin 3 mg PO QHS 
9. Promethazine 25 mg PO Q6H:PRN nausea 
10. Senna 8.6 mg PO BID:PRN constipation 
11. Venlafaxine XR 75 mg PO QAM 
12. albuterol sulfate 2.5 mg/0.5 mL inhalation QID:PRN 
wheeze/SOB 
13. Bisacodyl ___AILY:PRN constipation 
14. cranberry 125 mg oral QAM 
15. Fluticasone Propionate NASAL 2 SPRY NU QAM 
16. Loratadine 10 mg PO QAM 
17. mometasone 200 mcg nasal Q12H:PRN SOB 
18. Montelukast 10 mg PO QPM 
19. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
20. ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
Q4H:PRN SOB 
21. QUEtiapine Fumarate 400 mg PO QHS 
22. Spiriva with HandiHaler (tiotropium bromide) 18 mcg 
inhalation QAM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Abdominal Pain

SECONDARY DIAGNOSES:
Post-traumatic Stress Disorder
Depression
Anxiety
Asthma
H/O Developmental Delay

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure participating in your came here at ___ 
___. You can to us on ___ with 
abdominal pain. We did a CT scan which was normal and ran a 
series of lab tests all which were also normal. We treated your 
abdominal pain with bowel rest, IV fluids, and pain medication. 
We worked with nutrition to put together a meal plan that would 
not hurt your stomach. We also set up close follow up with your 
physicians for continued treatment of your abdominal pain. We 
did not make any medication changes but highly recommend that 
you follow up with the appointments that were set up for you.

1. Please follow up with Dr. ___ appointment below.
2. Please follow up with nutrition, call to schedule appointment 
at ___

Thank you for choosing ___ for 
your healthcare needs. 
Sincerely,
Your ___ Team
 
Followup Instructions:
___